US07199150B2
(14c) (2R)-2-t-Butoxycarbonylamino-2-ethyl-1-n-hexanoyloxy-4-(furan-2-yl)-3-butene
To a suspension of (furan-2-yl)methyl triphenylphosphonium bromide (4.04 g, 9.54 mmol) obtained in Reference example 1 in tetrahydrofuran (32.4 ml) was added potassium t-butoxide (1.06 g, 9.45 mmol) with stirring under ice-cooling, and the resulting mixture was furthermore stirred under ice-cooling for 15 minutes. After stirring, to the reaction mixture was added a solution of (2S)-2-t-butoxycarbonylamino-2-ethyl-3-n-hexanoyloxy-1-propanal (2.01 g, 6.37 mmol) obtained in Reference example (14b) in tetrahydrofuran (10 ml) with stirring under ice-cooling over a 5-minute interval, and the resulting mixture was furthermore stirred under ice-cooling for 30 minutes. After stirring, saturated aqueous ammonium chloride solution was added to the reaction mixture to quench the reaction, and the reaction temperature was raised to room temperature. After evaporation of the reaction mixture in vacuo, ethyl acetate and water were added to the residue, and the resulting mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. After filtration, the solvent was removed in vacuo, and the residue was purified by chromatography on a silica gel column using a mixed solvent of hexane and ethyl acetate (5:1) as the eluent to afford the title compound (2.385 g, yield: 99%)

reactant | (furan-2-yl)methyl triphenylphosphonium bromide | 9.54 mmol, 4.04 g | [Br-].O1C(=CC=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium t-butoxide | 9.45 mmol, 1.06 g | CC(C)([O-])C.[K+]
reactant | (2S)-2-t-butoxycarbonylamino-2-ethyl-3-n-hexanoyloxy-1-propanal | 6.37 mmol, 2.01 g | C(C)(C)(C)OC(=O)N[C@](C=O)(COC(CCCCC)=O)CC | C16H29NO5
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 32.4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (2R)-2-t-Butoxycarbonylamino-2-ethyl-1-n-hexanoyloxy-4-(furan-2-yl)-3-butene | 2.385 g, yield: 99% | C(C)(C)(C)OC(=O)N[C@@](COC(CCCCC)=O)(C=CC=1OC=CC1)CC | C21H33NO5
